US07692011B2
Preparation of 5-Chloro-8-hydroxy-7-iodo-quinazoline (A53) (Scheme A8)
5-Chloro-8-hydroxy-quinazoline (10 mmol) was added to a stirred solution of ICl (12 mmol) in concentrated HCl (10 mL).8 After 5 min, the precipitate was isolated via filtration, washed successively with H2O, saturated sodium thiosulfate and H2O, and dried. This provided 5-chloro-8-hydroxy-7-iodo-quinazoline (A53) as a solid.

reactant | 5-Chloro-8-hydroxy-quinazoline | 10 mmol | ClC1=C2C=NC=NC2=C(C=C1)O | C8H5ClN2O
reactant | ICl | 12 mmol | ICl | ClI
solvent | HCl | 10 mL | Cl | ClH
product | 5-Chloro-8-hydroxy-7-iodo-quinazoline | ClC1=C2C=NC=NC2=C(C(=C1)I)O | C8H4ClIN2O
